US04393058
To a solution of 235 g of veratryl alcohol in 1.4 liters of dry methylene chloride, 200 g of thionyl chloride was added dropwise while cooling with ice, and the mixture was stirred at room temperature overnight. The resulting dark brown reaction solution was poured into one liter of ice water. The pH of the solution was adjusted to 7.0 with sodium bicarbonate. The methylene chloride layer was separated, washed with water, dehydrated, and concentrated to dryness under vacuum to obtain 220 g of 3,4-dimethoxybenzyl chloride having a melting point of 50° to 51° C.

reactant | veratryl alcohol | 235 g | C(C1=CC(OC)=C(OC)C=C1)O | C9H12O3
reactant | thionyl chloride | 200 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 1.4 liters | C(Cl)Cl | CH2Cl2
product | 3,4-dimethoxybenzyl chloride | 220 g | COC=1C=C(CCl)C=CC1OC | C9H11ClO2
